US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(3-methoxypyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)methanone
Following general procedure D, (6-bromo-4-(4-(3-methoxypyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)(cyclopropyl)methanone (60 mg, 0.13 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (55 mg, 0.19 mmol) to afford the desired product (46 mg, 64%) as a brown solid: 1H NMR 1H NMR (500 MHz, MeOD+TFA-d) δ 9.42 (s, 1H), 8.46 (s, 1H), 8.31-8.23 (m, 1H), 8.04-7.97 (m, 1H), 7.75 (s, 1H), 7.71 (s, 1H), 4.99 (br s, 1H), 4.23-4.14 (m, 1H), 3.82-3.61 (m, 2H), 3.43-3.30 (m, 6H), 3.27-3.19 (m, 1H), 2.93-2.82 (m, 1H), 2.60-2.03 (m, 7H), 2.02-1.61 (m, 3H), 1.37-1.18 (m, 4H).; ESI MS m/z 554 [C30H33Cl2N3O3+H]+; HPLC>99.0% (AUC), tR=10.97 min.

reactant | (6-bromo-4-(4-(3-methoxypyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)(cyclopropyl)methanone | 0.13 mmol, 60 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N1CC(CC1)OC | C24H30BrN3O2
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.19 mmol, 55 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-(3-methoxypyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)methanone | 46 mg, 64% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1CCC(CC1)N1CC(CC1)OC)C1=CC(=C(C(=C1)Cl)O)Cl | C30H33Cl2N3O3
